US06642389B2
Methyl dimethoxyacetate (1.094 g, 8.15 mmol) and LiOH (420 mg, 10 mmol) were dissolved in 5 ml dioxane and 5 ml water at 0° C. and the reaction mixture stirred 30 minutes at 0° C. and 0.75 hours at r.t. It was then diluted with tBuOMe and washed with NaOH 1M/ice. The aqueous layer was acidified to pH 2 and extracted three times with AcOEt, the combined organic phases dried over Na2SO4 and evaporated to give the dimethoxy-acetic acid as a yellow oil (600 mg). Dimethoxy-acetic acid (8.86 g, 73.8 mmol), obtained from an analogous preparation, was dissolved in 100 ml acetonitrile at 0° C., benzylalcohol (7.3 ml, 70 mmol), EDCI (15 g, 80 mmol) and DMAP (855 mg, 7 mmol) were added and the reaction mixture kept at r.t. during 18 hours. It was then diluted with AcOEt, washed with water, HCl 1M, brine, Na2CO3 (10%) and brine again and the combined organic phases were dried over Na2SO4 and evaporated to give dimethoxy-acetic acid benzyl ester (10.4 g). To crude dimethoxy-acetic acid benzyl ester (4.86 g), were added acetylchloride (2 ml) and iodine (100 mg) as catalyst and the mixture was heated during 4 hours at 65° C., evaporated after addition of 100 ml of ether, diluted with 10 ml CH2Cl2 and added to a solution of triphenylphosphine (25 mmol, 6.63 g) in 50 ml CH2Cl2 and stirred 24 hours at r.t. A chromatography (silicagel; 0.6 kg; elution AcOEt and 1/1 AcOEt/ethanol) provided (benzyloxycarbonyl-methoxy-methyl)-triphenyl-phosphonium chloride as a white foam (6.87 g, 62%).

reactant | dimethoxy-acetic acid benzyl ester | 4.86 g | C(C1=CC=CC=C1)OC(C(OC)OC)=O | C11H14O4
reactant | triphenylphosphine | 25 mmol, 6.63 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | acetylchloride | 2 ml | C(C)(=O)Cl | C2H3ClO
catalyst | iodine | 100 mg | II | I2
product | (benzyloxycarbonyl-methoxy-methyl)-triphenyl-phosphonium chloride | 6.87 g, 62% | [Cl-].C(C1=CC=CC=C1)OC(=O)C(OC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H26O3P.ClH/c1-30-28(27(29)31-22-23-14-6-2-7-15-23)32(24-16-8-3-9-17-24,25-18-10-4-11-19-25)26-20-12-5-13-21-26;/h2-21,28H,22H2,1H3;1H/q+1;/p-1
